US04232035
2-[[O-[N-Methyl-N-(4-chlorophenylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one was prepared according to the procedure described in Example I, by reacting 5.0 g (0.0287 m) of 3,5,5-trimethyl-2-oximinothiazolidin-4-one, 7.22 g (0.0287 m) of N-methyl-N-(4-chlorophenylthiosulfenyl)carbamoyl fluoride and 2.9 g (0.0287 m) of triethylamine in 50 ml of dioxane. 2-[[O-[N-Methyl-N-(4-chlorophenylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one was crystallized from isopropyl ether to yield 5.9 g of a white solid, m.p. 74°-76° C.

reactant | 3,5,5-trimethyl-2-oximinothiazolidin-4-one | 5.0 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | N-methyl-N-(4-chlorophenylthiosulfenyl)carbamoyl fluoride | 7.22 g | CN(C(=O)F)SSC1=CC=C(C=C1)Cl | C8H7ClFNOS2
reactant | triethylamine | 2.9 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-[[O-[N-Methyl-N-(4-chlorophenylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one | CN(C(=O)ON=C1SC(C(N1C)=O)(C)C)SSC1=CC=C(C=C1)Cl | C14H16ClN3O3S3
